US09085540B2
A mixture of 5-chloro-3-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-6-(2-hydroxypropan-2-yl)pyrazine-2-carboxamide (790 mg), 5-amino-2-fluorophenol (442 mg), potassium carbonate (641 mg), and N-methylpyrrolidone (8 mL) was reacted at 100° C. for 2 hours. To the reactant was added a mixed solution of saturated brine:water (1:1), followed by extraction with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol=99:1-80:20) to obtain 5-(5-amino-2-fluorophenoxy)-3-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-6-(2-hydroxypropan-2-yl)pyrazine-2-carboxamide (523 mg) as a pale brown solid.

reactant | 5-chloro-3-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-6-(2-hydroxypropan-2-yl)pyrazine-2-carboxamide | 790 mg | ClC=1N=C(C(=NC1C(C)(C)O)C(=O)N)NC=1C=NN(C1)CCO | C13H17ClN6O3
reactant | 5-amino-2-fluorophenol | 442 mg | NC=1C=CC(=C(C1)O)F | C6H6FNO
reactant | potassium carbonate | 641 mg | C([O-])([O-])=O.[K+].[K+]
reactant | brine water | [Cl-].[Na+].O.O
solvent | N-methylpyrrolidone | 8 mL | CN1C(CCC1)=O | C5H9NO
product | 5-(5-amino-2-fluorophenoxy)-3-{[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]amino}-6-(2-hydroxypropan-2-yl)pyrazine-2-carboxamide | 523 mg | NC=1C=CC(=C(OC=2N=C(C(=NC2C(C)(C)O)C(=O)N)NC=2C=NN(C2)CCO)C1)F | C19H22FN7O4
